US07507740B2
(i) Production of tert-butyl {2-[4-({3-methyl-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethyl}carbamate
A mixture of tert-butyl[2-(4-chloro-5H-pyrrolo[3,2-d]pyrimidin-5-yl)ethyl]carbamate (297 mg), 3-methyl-4-[3-(trifluoromethyl)phenoxy]aniline (401 mg) and isopropyl alcohol (2.97 mL) was stirred at 80° C. for 16 hrs. The reaction mixture was diluted with ethyl acetate (80 mL), and washed with aqueous sodium hydrogen carbonate (30 mL). The organic layer was separated, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=90/10→0/100) to give the title compound (528 mg) as a white powder.

reactant | tert-butyl[2-(4-chloro-5H-pyrrolo[3,2-d]pyrimidin-5-yl)ethyl]carbamate | 297 mg | C(C)(C)(C)OC(NCCN1C=CC=2N=CN=C(C21)Cl)=O | C13H17ClN4O2
reactant | 3-methyl-4-[3-(trifluoromethyl)phenoxy]aniline | 401 mg | CC=1C=C(N)C=CC1OC1=CC(=CC=C1)C(F)(F)F | C14H12F3NO
reactant | isopropyl alcohol | 2.97 mL | C(C)(C)O | C3H8O
solvent | ethyl acetate | 80 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl {2-[4-({3-methyl-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethyl}carbamate | 528 mg | CC=1C=C(C=CC1OC1=CC(=CC=C1)C(F)(F)F)NC=1C2=C(N=CN1)C=CN2CCNC(OC(C)(C)C)=O | C27H28F3N5O3
